US07205409B2
3,4-difluoro-5-hydroxy-benzoic acid ethyl ester
The title compound was synthesized by substituting 1-benzyloxy-4-bromo-2-tert-butyl-benzene in Example 47C with 2,3-difluoro-5-bromophenol in EtOH. MS (DCI) m/z 220 (M+NH4)+.

reactant | 1-benzyloxy-4-bromo-2-tert-butyl-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C(C)(C)C | C17H19BrO
reactant | 2,3-difluoro-5-bromophenol | FC1=C(C=C(C=C1F)Br)O | C6H3BrF2O
reactant | EtOH | CCO | C2H6O
product | 3,4-difluoro-5-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)O)F)F)=O | C9H8F2O3
